2201-02-24 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2201-2-23**] 06:17 PM
 PICC LINE - START [**2201-2-23**] 06:40 PM
 ARTERIAL LINE - START [**2201-2-23**] 06:42 PM
 INVASIVE VENTILATION - STOP [**2201-2-23**] 06:44 PM
 BLOOD CULTURED - At [**2201-2-24**] 12:00 AM
 URINE CULTURE - At [**2201-2-24**] 12:00 AM
 NASAL SWAB - At [**2201-2-24**] 12:00 AM
   -had infected pacemaker removed in OR by EP, has temporary pacer in
   place, the site was oozing last night
   -hypotensive to MAPs in 50s, SBPs80s, responded to 1L fluid bolus and
   another1 L maintenance
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-2-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-23**] 08:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2201-2-24**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 60 (60 - 61) bpm
   BP: 99/41(59) {83/30(46) - 154/63(87)} mmHg
   RR: 27 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm), V Paced
             Total In:
                                                                  1,620 mL
                                                                  1,851 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                  1,701 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    215 mL
   Urine:
                                                                    680 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    940 mL
                                                                  1,636 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (318 - 454) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 14.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   237 K/uL
   8.5 g/dL
   145 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   16 mg/dL
   102 mEq/L
   132 mEq/L
   24.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2201-2-24**]  01:40 AM
   WBC
   14.3
   Hct
   24.5
   Plt
   237
   Cr
   2.2
   Glucose
   145
   Other labs: Differential-Neuts:85.7 %, Lymph:9.5 %, Mono:4.1 %, Eos:0.5
   %, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   53 year-old male with a history of type II diabetes mellitus, aortic
   root replacement with aortic homograft [**9-28**], and AVR with abscess
   repair at aortic root [**3-29**], CHB s/p PPM, now with group B Strep
   endocarditis with infected pacemaker and aortic valve. ID and CT
   surgery following. Clinically improved and stable for now on IV ABx.
   .
   # Group B Strep Endocarditis, Aortic Valve Homograft
   - Continuing PCN, no gent given decreasing clearance.
   - Repeat echo today to eval AR
   - Appreciate ID Following
   - At this time, operative risk is quite high, and we are continuing to
   follow with medical therapy given no hemodynamic compromise at this
   time.
   #Fever/Leukocytosis: Spiking for last 3 days, ID following, concerning
   for worsening of disease vs complication
   -f/u ID rec for repeat Echo to assess for complication such as abscess
   -f/u BCx, UCx
   - Lookig for other sources as above.
   # Infected Pacer Leads-EP removed leads on [**2201-2-24**], temporary pacer
   placed
   - continue to monitor for oozing from the site
   .
   # Acute on Chronic renal failure - baseline Cr here apppears to be
   1.3-1.5 peaked to 2.2 this am in setting of procedure, being NPO with
   minimal intake after.  Likely pre-renal.
   -bolused 1L NS, started maintenance fluids NS 150cc/hr
   - follow cr
   - avoid nephrotoxins
   - checking urine lytes
   .
   # Respiratory Failure
 Resolved, on room air.  Weaning off of oxygen,
   requires O2 at night for apnea.
   - consider outpatient CPAP as needed
   .
   # Anemia
 Likely BLOOD LOSS and INFLAMMATION as dual contributors.
   Persistently low retic count with elevated ferritin. While patient was
   intubated had Gastroocult + NGT secretions. Did have oozing from pacer
   site overnight.
   - Continue Pantoprazole 40 mg PO Q12H
   - Type and screen up to date
   - Guaiac all stools
   - Transfuse PRN for HCT < 25
   .
   # Diabetes Mellitus Type 2
   - cont RISS
   - Up-titrating Lantus further today to 33units qhs
   .
   # Access - PICC placed [**2201-2-16**], peripheral IV, Aline
   .
   # PPX - Heparin SC, PPI [**Hospital1 **], bowel regimen
   ICU Care
   Nutrition: PO diet with modifications per speech & swallow service.
   Initial calorie count 734 (low)
   - f/u calorie count final, f/u nutrition recs
   - encourage PO intake
   Glycemic Control:  on lantus and RISS
   Lines:
   PICC Line - [**2201-2-23**] 06:40 PM
   Arterial Line - [**2201-2-23**] 06:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: pending interdisciplinary team meeting
   ------ Protected Section ------
   EP consult f/u note
   53 yo male with bioprosthetic valve endocarditis + pacer wire + TV
   vegetation, now s/p pacer wire removal with insertion of screw-in lead
   and new external pacing unit.
   Stable.
   HR 60 (VVI paced)
   BP 110-125/70s
   Afebrile
   Clinical ex is unremarkable. Groin sites clean and without hematoma.
   ECG: sinus with V pace
   CXR: adequately positioned RV lead.
   A/P: Adequately functioning pacemaker.
   Continue tx for endocarditis as outlined by resident note.
   Will continue to follow.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2201-2-24**] 12:53 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to severe aortic and tricuspid endocarditis, aortic
   regurgitation, aortic root abscess, renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3.3.9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2201-2-28**] 09:24 ------

2201-02-26 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE: Moderate right coronary cusp vegetation. 2+ AR. 2+ MR. [**First Name (Titles) **]
[**Last Name (Titles) 4545**]tic root vegetation. Small echolucent area adjacent to the
   non-coronary cusp, possibly an abscess. Moderate tricuspid vegetation.
   - ID: rec CT chest, repeat TEE in appx 72 hrs.
   - SBP dropped to 70s, recovered to 100-110 with 500ml bolus + 500ml
   maintenance fluid.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-2-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2201-2-25**] 03:10 PM
   Fentanyl - [**2201-2-25**] 03:10 PM
   Pantoprazole (Protonix) - [**2201-2-25**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-26**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 60 (60 - 80) bpm
   BP: 140/60(84) {73/38(60) - 146/70(98)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 70 Inch
             Total In:
                                                                  2,503 mL
                                                                    816 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,068 mL
                                                                    816 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,050 mL
                                                                    575 mL
   Urine:
                                                                  1,050 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.41///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition. MM mildly dry
   Cardiovascular: Harsh, holosystolic murmur LUSB
   Respiratory / Chest: Breath Sounds: Coarse, bronchial BS
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace. R groin dsg c/d/i. No
   bruit/hemaotma
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: awake, alert, oriented Attentive, Follows simple commands,
   Labs / Radiology
   270 K/uL
   8.0 g/dL
   117 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.3 mEq/L
   18 mg/dL
   109 mEq/L
   133 mEq/L
   23.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2201-2-24**]  01:40 AM
                             [**2201-2-24**]  01:37 PM
                             [**2201-2-25**]  04:00 AM
                             [**2201-2-25**]  12:20 PM
                             [**2201-2-26**]  03:18 AM
   WBC
   14.3
   10.8
   11.9
   Hct
   24.5
   22.7
   23.9
   23.2
   23.6
   Plt
   237
   217
   270
   Cr
   2.2
   2.1
   2.2
   1.8
   Glucose
   145
   112
   175
   117
   Other labs: PT / PTT / INR:15.1/28.1/1.3, ALT / AST:[**8-2**], Alk Phos / T
   Bili:64/0.9, Differential-Neuts:85.4 %, Lymph:10.9 %, Mono:2.5 %,
   Eos:0.8 %, Albumin:2.5 g/dL, LDH:207 IU/L, Ca++:6.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   53 year-old male with a history of type II diabetes mellitus, aortic
   root replacement with aortic homograft [**9-28**], and AVR with abscess
   repair at aortic root [**3-29**], CHB s/p PPM, now with group B Strep
   endocarditis with infected pacemaker and aortic valve. ID and CT
   surgery following. Clinically improved on IV ABx but persistently
   spiking fevers after pacer lead removal.
   .
   # Group B Strep Endocarditis, Aortic Valve Homograft. Repeat echo with
   worsening AI.  TEE with suspicion for abscess.
   - Continuing PCN, no gent given decreasing clearance. Changed PCN dose
   for GFR
   - At this time, operative risk is quite high, but would like to
   re-visit the issue with surgery
   -will repeat TEE on Saturday to evaluate interval progression of
   abscess
   #Fever/Leukocytosis: Afebrile last night but given fever for 3 days
   prior, ID following, concerning for worsening of disease vs
   complication. OIther possible etiologies include pulm infection given
   recent coughing ad sputum with polys or UTI with dirty U/A
   -f/u ID
   -f/u BCx, UCx, sputum cx
   - Looking for other sources as above.
   - continue nafcillin for now; f/u with iD regarding broadening abx
   .
   # Infected Pacer Leads-EP removed leads on [**2201-2-24**], temporary pacer
   placed
   - continue to monitor for oozing from the site
   .
   # Acute on Chronic renal failure - baseline Cr here apppears to be
   1.3-1.5 peaked to 2.2 in setting of procedure, being NPO with minimal
   intake after.  Likely pre-renal. Urine lytes consistent with prerenal
   azotemia. Bolused 500cc and transfused I unit with improvement of
   creatinine today
   - [**Month (only) 11**] be related to gent.
   - Trending Cr / Urine output
   .
   # Respiratory Failure
 Resolved, on room air.  Weaning off of oxygen,
   requires O2 at night for apnea.
   - consider outpatient CPAP as needed
   .
   # Anemia
 Likely BLOOD LOSS and INFLAMMATION as dual contributors.
   Persistently low retic count with elevated ferritin. While patient was
   intubated had Gastroocult + NGT secretions. Did have oozing from pacer
   site overnight but no hematoma
   - Continue Pantoprazole 40 mg PO Q12H
   - Transfuse PRN for HCT < 21 or signs of ischemia
   .
   # Diabetes Mellitus Type 2
   - cont RISS  / Glargine
   # Access - PICC placed [**2201-2-16**], peripheral IV, Aline
   # PPX - Heparin SC, PPI [**Hospital1 **], bowel regimen
   # FEN: Corrected calcium 8.5. will check ionized calcium in pm, replete
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-23**] 06:40 PM
   Arterial Line - [**2201-2-23**] 06:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to aortic root abscess, endocarditis, heart block,
   aortic regurgitation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/5/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2201-2-28**] 09:28 ------

2201-03-03 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dr.[**Name (NI) 1976**] spoke with CT Surgery (see note in chart) who are
   reluctant to take to OR due to intraop risks unless more emergent
   -HCTs stable after transfusion 2 units [**2201-3-1**]
   -MAPs maintained in 70s when weaned off levophed
   -Extubated
   -Attempted contacting [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] ([**Name (NI) 4675**]) at [**Hospital1 **] but did not hear
   back. Per d/w pt, he is now agreeable to dental extraction
   -Per renal, likely ATN and will improve. Sediment c/w ATN. Also
   recommended checking urine eos, complement levels, urine pr/cr ratio.
   -At 6pm, had 2100 cc UOP since MN
   -Had loose stool x 2 so ordered C diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-3-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-3-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-3-2**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-3**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 80 (80 - 93) bpm
   BP: 125/49(78) {101/38(63) - 136/54(80)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  2,033 mL
                                                                    503 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,053 mL
                                                                    263 mL
   Blood products:
                                                                    260 mL
   Total out:
                                                                  2,345 mL
                                                                    145 mL
   Urine:
                                                                  2,345 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -312 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: 7.41/37/63/24/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Lying comfortably, no acute distress, awake, opens
   eyes to voice, shakes no to pain
   Head, Ears, Nose, Throat: MMM
   Cardiovascular: 2/6 SEM at RUSB, [**2-27**] diastolic murmur at LSB
   Respiratory / Chest: Improved aeration of L base, coarse BS bilat
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: 2+ pitting edema bilat
   Neurologic: awake, alert, oriented Attentive, Follows simple commands.
   PERRL. Left pupil slightly smaller right pupil. CN 2-12 intact. MAE
   Labs / Radiology
   258 K/uL
   8.7 g/dL
   166 mg/dL
   3.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   36 mg/dL
   105 mEq/L
   139 mEq/L
   25.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2201-3-1**]  04:59 AM
                             [**2201-3-1**]  07:46 PM
                             [**2201-3-1**]  08:04 PM
                             [**2201-3-2**]  01:09 AM
                             [**2201-3-2**]  04:46 AM
                             [**2201-3-2**]  05:01 AM
                             [**2201-3-2**]  07:06 AM
                             [**2201-3-2**]  03:39 PM
                             [**2201-3-2**]  04:21 PM
                             [**2201-3-3**]  03:59 AM
   WBC
   12.7
   9.9
   Hct
   21.8
   25.2
   29.3
   25.4
   Plt
   286
   258
   Cr
   3.4
   3.6
   3.6
   3.4
   TCO2
   25
   25
   25
   25
   25
   24
   Glucose
   103
   281
   166
   Other labs: PT / PTT / INR:13.5/27.7/1.2, ALT / AST:[**8-2**], Alk Phos / T
   Bili:64/0.9, Differential-Neuts:80.3 %, Lymph:12.5 %, Mono:4.7 %,
   Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:207 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   53 year-old male with a history of type II diabetes mellitus, aortic
   root replacement with aortic homograft [**9-28**], and AVR with abscess
   repair at aortic root [**3-29**], CHB s/p PPM, now with group B Strep
   endocarditis with infected pacemaker and aortic valve now with
   recurrent fever and concern for progression of valvular damage despite
   maximal medical therapy.  On [**2-28**] pt with vagal symptoms, low BP and
   decreased responsiveness so patient was intubated.
   .
   1. Group B Strep Endocarditis: Pt with involvement of pacer leads,
   tricuspid and aortic valve. Penicillin course started on [**2-7**], received
   gentamicin course ([**Date range (1) 4593**]).  Pt developed recurrent fever on [**2-22**].
   Underwent Pacer lead extraction on [**2-23**]. Given continued fevers repeat
   TEE on [**2-25**] demonstrated a moderate-sized vegetation on the aortic valve
   with (2+) AR, small vegetation at the aortic root, aortic annulus is
   circumferentially heterogenously thickened with a small echolucent area
   adjacent to the non-coronary cusp concerning for abscess. Moderate
   vegetation on the tricuspid valve.  Patient decompensated on [**2-28**] and
   was intubated.  TEE was done emergently and showed worsening MR/AI.
   - Need to have formal discussion with surgery today and get patient
   ready for OR ASAP.  Will determine if patient needs tooth extraction,
   cath, etc prior to OR.  Other studies have been done.
   - Continuing Penicillin G
 currently 3 million units IV Q4 for GFR
   <50, holding on further gentamicin given worsening of renal function
   and low likelihood of further benefit
   - Pt is known to be high risk surgical candidate due to multiple
   previous surgeries and aortic homograft/valve however now that the
   patient is having recurrent fevers and echocardiographic findings
   concerning for aortic root abscess, surgical intervention may provide
   only opportunity for cure
   - Greatly appreciate ID, EP and CT surgery involvement in the
   management of this complex issue
   - Follow blood cultures
   2. Fever/Leukocytosis: Concerning for complication of endocarditis as
   above. Continued workup to rule out other possible etiologies including
   pulmonary infection, UTI.
   - management of endocarditis as outlined above
   - CT Chest with continued LL collapse and effusion, no clear evidence
   of septic emboli
   - f/u BCx, UCx, sputum cx
 No growth
   - Continue penicillin monotherapy for now, no culture based evidence
   for need to broaden therapy
   .
   3. Hyperkalemia
 improved with K 3.8 this morning.
   .
   4. Bilateral Foot Ulcers
 pt was evaluated by podiatry on admission,
   wound cultures grew Group B strep, no evidence of Osteomyelitis at that
   time, additionally pt will require prolonged course of pencillin as
   above for endocarditis
   - will have podiatry re-evaluate given increased likelihood of cardiac
   surgery being necessary
   - continue current local wound care
   .
   5. Infected Pacer Leads - EP removed leads on [**2201-2-24**], temporary pacer
   placed
   - Appreciate EP recs
   - Increase HR to 80s to help with forward flow and ideally renal
   perfusion.
   .
   6. Complete Heart Block
 pt s/p pacer lead explant as above, heart
   block related to damage of conduction system from endocarditis and
   multiple previous surgeries
   - Continue on telemetry.
   .
   7. Acute on Chronic renal failure - baseline Cr 1.3-1.5 peaked to 2.2
   in setting of sepsis, now worsening after events of yesterday.
   - may be related to gentamicin therapy
 now off
   - continue to monitor, renally dose meds
   - Increase HR for forward flow.  Follow UOP.
   .
   8. Anemia
 Likely blood loss and inflammation as dual contributors.
   Persistently low reticulocyte count with elevated ferritin. While
   patient was intubated had Gastroocult + NGT secretions. Did have oozing
   from pacer site but no hematoma
   - Continue Pantoprazole 40 mg PO Q12H
   - Transfuse PRN for HCT < 21 or signs of ischemia
   .
   9. Diabetes Mellitus Type 2
   - cont RISS  / Glargine
   .
   #.  Access - PICC placed [**2201-2-16**], peripheral IV, Aline in place
   .
   #. PPX - Heparin SC, PPI [**Hospital1 **], bowel regimen
   .
   #. FEN: continue to follow Ca replete PRN, encourage supplemental
   shakes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-23**] 06:40 PM
   Arterial Line - [**2201-2-28**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-03-04 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-3-4**] 03:30 AM
   - OMFS ([**Doctor Last Name 3121**]) to see pt [**3-4**] after 5pm for possible extraction that
   pm.
   - Increased glargine from 33 to 40 units.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-3-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-3-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-4**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 80 (80 - 82) bpm
   BP: 129/55(83) {91/39(65) - 153/116(125)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,854 mL
                                                                    475 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    774 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    600 mL
   Urine:
                                                                    840 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,014 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GEN: looks well at bedside
   HEENT: OP clear, MMM
   CV: RRR, diastolic murmur
   ABD: NT NT +BS soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   8.6 g/dL
   122 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   103 mEq/L
   139 mEq/L
   26.1 %
   8.3 K/uL
        [image002.jpg]
                             [**2201-3-1**]  07:46 PM
                             [**2201-3-1**]  08:04 PM
                             [**2201-3-2**]  01:09 AM
                             [**2201-3-2**]  04:46 AM
                             [**2201-3-2**]  05:01 AM
                             [**2201-3-2**]  07:06 AM
                             [**2201-3-2**]  03:39 PM
                             [**2201-3-2**]  04:21 PM
                             [**2201-3-3**]  03:59 AM
                             [**2201-3-4**]  03:32 AM
   WBC
   12.7
   9.9
   8.3
   Hct
   21.8
   25.2
   29.3
   25.4
   26.1
   Plt
   286
   258
   238
   Cr
   3.4
   3.6
   3.6
   3.4
   2.7
   TCO2
   25
   25
   25
   25
   24
   Glucose
   103
   281
   166
   122
   Other labs: PT / PTT / INR:13.5/27.7/1.2, ALT / AST:[**8-2**], Alk Phos / T
   Bili:64/0.9, Differential-Neuts:80.3 %, Lymph:12.5 %, Mono:4.7 %,
   Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:207 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   53 year-old male with a history of type II diabetes mellitus, aortic
   root replacement with aortic homograft [**9-28**], AVR with abscess repair
   at aortic root [**3-29**], CHB s/p PPM, now with group B Strep endocarditis
   complicated by infected pacemaker, infected aortic valve now with
   persistent fever despite maximal medical therapy.
   1. Group B Strep Endocarditis: Pt with involvement of pacer leads,
   tricuspid valve, and aortic valve and s/p lead extraction on [**2201-2-23**].
   Regarding antibiotic course, patient has received gentamicin ([**Date range (1) 4593**])
   and penicillin ([**2-7**]
 present).  Penicillin course started on [**2-7**],
   received gentamicin course ([**Date range (1) 4593**]).   Repeat echo has demonstrated
   worsened MR.  [**Name13 (STitle) **] surgery, he has an extremely high risk for operative
   repair/replacement and they will hold off on surgical intervention at
   this time.
   - continue antibiotics with penicillin G
   - appreciate surgery recs, ID, and EP recs
   - follow-up with OFMS regarding teeth extraction
   - follow-up blood cultures
   - repeat TEE today or tomorrow for further evaluation of valvular
   disease
 TEE currently will likely not change management at this time.
   - Dr. [**Last Name (STitle) 3121**] to take to OR today after 5pm for dental extraction; will
   hold SC heparin
   2. Bilateral Foot Ulcers
   Pt was evaluated by podiatry on admission with wound cultures grew
   Group B strep and no evidence of osteomyelitis at that time.
   - continue current local wound care
   3. Infected Pacer Leads
   EP removed leads on [**2201-2-24**], temporary pacer placed
   - Appreciate EP recs and will follow-up with EP regarding further long
   term plan options whether he does or doesn
t have surgery
   - Increase HR to 80s to help with forward flow and ideally renal
   perfusion.
   4. Complete Heart Block
   Pt s/p pacer lead explant as above, heart block related to damage of
   conduction system from endocarditis and multiple previous surgeries
   - Continue on telemetry
   - Will follow-up with EP as above
   5. Acute on Chronic renal failure
   Patient has a baseline creatinine 1.3-5 and has worsened to the mid 3s
   over the last 72 hours. Etiology thought likely related to ATN in the
   setting of gentamicin, hypotension, and sepsis.
   - appreciate renal recs
   - avoid further nephrotoxic medications
   - continue to monitor, renally dose meds
   6. Anemia
   Likely blood loss and inflammation as dual contributors.  Persistently
   low reticulocyte count with elevated ferritin. While patient was
   intubated had Gastroocult + NGT secretions. Did have oozing from pacer
   site but no hematoma
   - Continue Pantoprazole 40 mg PO Q12H
   - Transfuse PRN for HCT < 21 or signs of ischemia
   7. Diabetes Mellitus Type 2
   Stable
   - cont RISS  / Glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-23**] 06:40 PM
   Arterial Line - [**2201-2-28**] 06:09 PM
 d.c today
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to aortic endocarditis, annular abscess, complete
   heart block, severe aortic regurgitation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/11/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2201-3-6**] 11:30 ------

2201-03-05 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2201-3-4**] 09:30 AM
 OR SENT - At [**2201-3-4**] 08:15 PM
   For oral surgery (teeth extraction)
 ARTERIAL LINE - START [**2201-3-4**] 09:00 PM
   started in OR
 OR RECEIVED - At [**2201-3-4**] 09:55 PM
   -had 5 teeth extracted with local anesthesia
   -temp to 100.7at 7pm prior to extraction
   -ID wants weekly ESR, CRP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-5**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 80 (78 - 83) bpm
   BP: 95/38(53) {95/33(49) - 124/68(78)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,224 mL
                                                                    166 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    984 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    700 mL
   Urine:
                                                                  1,100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GEN: looks well at bedside
   HEENT: OP with gauze over dental extractions and minimal sanguinous
   drainage, MMM
   CV: RRR, [**2-27**] diastolic murmur LUSB, lasting most of diastole
   ABD: NT ND +BS soft
   Peripheral Vascular: DP?PT 2+ BL.
   Skin:  Not assessed
   Ext: gauze over BL Les and pneumoboots in place
   Neurologic: Alert, awake. CN 2-12 intact. Left pupil slightly smaller
   than R, both reactive, unchanged form prior. 5/5 strength UE/LE BL
   Labs / Radiology
   272 K/uL
   8.7 g/dL
   112 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.4 mEq/L
   30 mg/dL
   109 mEq/L
   140 mEq/L
   26.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2201-3-1**]  08:04 PM
                             [**2201-3-2**]  01:09 AM
                             [**2201-3-2**]  04:46 AM
                             [**2201-3-2**]  05:01 AM
                             [**2201-3-2**]  07:06 AM
                             [**2201-3-2**]  03:39 PM
                             [**2201-3-2**]  04:21 PM
                             [**2201-3-3**]  03:59 AM
                             [**2201-3-4**]  03:32 AM
                             [**2201-3-5**]  04:38 AM
   WBC
   12.7
   9.9
   8.3
   11.1
   Hct
   25.2
   29.3
   25.4
   26.1
   26.8
   Plt
   286
   258
   238
   272
   Cr
   3.6
   3.6
   3.4
   2.7
   2.4
   TCO2
   25
   25
   25
   25
   24
   Glucose
   103
   281
   166
   122
   112
   Other labs: PT / PTT / INR:13.5/27.7/1.2, ALT / AST:[**8-2**], Alk Phos / T
   Bili:64/0.9, Differential-Neuts:80.3 %, Lymph:12.5 %, Mono:4.7 %,
   Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:207 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   53 year-old male with a history of type II diabetes mellitus, aortic
   root replacement with aortic homograft [**9-28**], AVR with abscess repair
   at aortic root [**3-29**], CHB s/p PPM, now with group B Strep endocarditis
   complicated by infected pacemaker, infected aortic valve now with
   persistent fever despite maximal medical therapy.
   1. Group B Strep Endocarditis: Pt with involvement of pacer leads,
   tricuspid valve, and aortic valve and s/p lead extraction on [**2201-2-23**].
   Regarding antibiotic course, patient has received gentamicin ([**Date range (1) 4593**])
   and penicillin ([**2-7**]
 present).  Penicillin course started on [**2-7**],
   received gentamicin course ([**Date range (1) 4593**]).   Repeat echo has demonstrated
   worsened MR [**First Name (Titles) 43**] [**Last Name (Titles) **] with likely abscess. Per surgery, he has an
   extremely high risk for operative repair/replacement and they will hold
   off on surgical intervention at this time. Spiked low grade fever
   overnight prior to dental extraction and WBC up today.
   - continue antibiotics with penicillin G
   - appreciate surgery recs, ID, and EP recs
   - follow-up with OFMS regarding teeth extraction
   - follow-up daily blood cultures
   - consider repeat TEE today or tomorrow for further evaluation of
   valvular disease for reassurance prior to transfer to floor
   - weekly ESR, CRP per ID for monitoring of infection
   2. Bilateral Foot Ulcers
   Pt was evaluated by podiatry on admission with wound cultures grew
   Group B strep and no evidence of osteomyelitis at that time.
   - continue current local wound care
   3. Infected Pacer Leads
   EP removed leads on [**2201-2-24**], temporary pacer placed
   - Appreciate EP recs and will follow-up with EP regarding further long
   term plan options whether he does or doesn
t have surgery
   - Increase HR to 80s to help with forward flow and ideally renal
   perfusion.
   4. Complete Heart Block
   Pt s/p pacer lead explant as above, heart block related to damage of
   conduction system from endocarditis and multiple previous surgeries
   - Continue on telemetry
   - Will follow-up with EP as above
   5. Acute on Chronic renal failure
   Patient has a baseline creatinine 1.3-5 and has worsened to the mid 3s
   after hypotensive episode [**2-28**]. Etiology thought likely related to ATN
   in the setting of gentamicin, hypotension, and sepsis. Renal function
   continuing to improve since weekend
   - appreciate renal recs
   - avoid further nephrotoxic medications
   - continue to monitor, renally dose meds
   6. Anemia
   Likely blood loss and inflammation as dual contributors.  Persistently
   low reticulocyte count with elevated ferritin. While patient was
   intubated had Gastroocult + NGT secretions. Did have oozing from pacer
   site but no hematoma. HCT stable>24 hours.
   - Continue Pantoprazole 40 mg PO Q12H
   - Transfuse PRN for HCT < 21 or signs of ischemia
   7. Diabetes Mellitus Type 2
   Stable
   - cont RISS  / Glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-23**] 06:40 PM
   Arterial Line - [**2201-2-28**] 06:09 PM
 d.c today
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to aortic endocarditis, annular abscess, complete
   heart block, severe aortic regurgitation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/12/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2201-3-6**] 11:32 ------

2201-03-06 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2201-3-5**] 10:36 AM
   started in OR
 BLOOD CULTURED - At [**2201-3-5**] 10:00 PM
   Low grade fever 100.4 at night. Cultured.
   Pharmacy called to say should be on PCN q6 but ID wants q4
   Feels fatigued but otherwise well. No chest pain, shortness of breath,
   chills
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-3-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-3-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-3-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-6**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 80 (79 - 81) bpm
   BP: 86/61(65) {86/28(23) - 119/63(72)} mmHg
   RR: 23 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,190 mL
                                                                    225 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                      0 mL
   Urine:
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: looks well at bedside, sitting on edge of bed
   HEENT: OP clear with minimal sanguinous drainage, MMM
   CV: RRR, [**2-27**] diastolic murmur LUSB, lasting most of diastole
   ABD: NT ND +BS soft
   Peripheral Vascular: DP/PT 2+ BL.
   Skin:  Not assessed
   Ext: gauze over BL Les and pneumoboots in place
   Neurologic: Alert, awake. CN 2-12 intact. Left pupil slightly smaller
   than R, both reactive, unchanged form prior. 5/5 strength UE/LE BL
   Labs / Radiology
   272 K/uL
   8.7 g/dL
   112 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.4 mEq/L
   30 mg/dL
   109 mEq/L
   140 mEq/L
   26.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2201-3-1**]  08:04 PM
                             [**2201-3-2**]  01:09 AM
                             [**2201-3-2**]  04:46 AM
                             [**2201-3-2**]  05:01 AM
                             [**2201-3-2**]  07:06 AM
                             [**2201-3-2**]  03:39 PM
                             [**2201-3-2**]  04:21 PM
                             [**2201-3-3**]  03:59 AM
                             [**2201-3-4**]  03:32 AM
                             [**2201-3-5**]  04:38 AM
   WBC
   12.7
   9.9
   8.3
   11.1
   Hct
   25.2
   29.3
   25.4
   26.1
   26.8
   Plt
   286
   258
   238
   272
   Cr
   3.6
   3.6
   3.4
   2.7
   2.4
   TCO2
   25
   25
   25
   25
   24
   Glucose
   103
   281
   166
   122
   112
   Other labs: PT / PTT / INR:13.5/27.7/1.2, ALT / AST:[**8-2**], Alk Phos / T
   Bili:64/0.9, Differential-Neuts:80.3 %, Lymph:12.5 %, Mono:4.7 %,
   Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:207 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   53 year-old male with a history of type II diabetes mellitus, aortic
   root replacement with aortic homograft [**9-28**], AVR with abscess repair
   at aortic root [**3-29**], CHB s/p PPM, now with group B Strep endocarditis
   complicated by infected pacemaker, infected aortic valve now with
   persistent fever despite maximal medical therapy.
   1. Group B Strep Endocarditis: Pt with involvement of pacer leads,
   tricuspid valve, and aortic valve and s/p lead extraction on [**2201-2-23**].
   Regarding antibiotic course, patient has received gentamicin ([**Date range (1) 4593**])
   and penicillin ([**2-7**]
 present).  Penicillin course started on [**2-7**],
   received gentamicin course ([**Date range (1) 4593**]).   Repeat echo has demonstrated
   worsened MR [**First Name (Titles) 43**] [**Last Name (Titles) **] with likely abscess. Per surgery, he has an
   extremely high risk for operative repair/replacement and they will hold
   off on surgical intervention at this time. Spiked low grade temps
   overnight last 2 nights but hemodynamically stable.
   - continue antibiotics with penicillin G at current dose
   - appreciate surgery recs, ID, and EP recs
   - follow-up with OFMS regarding teeth extraction
   - follow-up blood cultures
   - consider repeat TEE this upcoming week for further evaluation of
   valvular disease and monitoring  progress of infection
   - weekly ESR, CRP per ID for monitoring of infection
   2. Bilateral Foot Ulcers
   Pt was evaluated by podiatry on admission with wound cultures grew
   Group B strep and no evidence of osteomyelitis at that time.
   - continue current local wound care
   3. Infected Pacer Leads
   EP removed leads on [**2201-2-24**], temporary pacer placed
   - Appreciate EP recs and will follow-up with EP regarding further long
   term plan options whether he does or doesn
t have surgery
   - Increase HR to 80s to help with forward flow and ideally renal
   perfusion.
   4. Complete Heart Block
   Pt s/p pacer lead explant as above, heart block related to damage of
   conduction system from endocarditis and multiple previous surgeries
   - Continue on telemetry
   - Will follow-up with EP as above
   5. Acute on Chronic renal failure
   Patient has a baseline creatinine 1.3-5 and has worsened to the mid 3s
   after hypotensive episode [**2-28**]. Etiology thought likely related to ATN
   in the setting of gentamicin, hypotension, and sepsis. Renal function
   continuing to improve since weekend and stable last 24 hours. Has had
   adequate UOP. Renal has signed off.
   - appreciate renal recs
   - avoid further nephrotoxic medications
   - continue to monitor, renally dose meds
   6. Anemia
   Likely blood loss and inflammation as dual contributors.  Persistently
   low reticulocyte count with elevated ferritin. While patient was
   intubated had Gastroocult + NGT secretions. Did have oozing from pacer
   site but no hematoma. HCT stable>24 hours.
   - Continue Pantoprazole 40 mg PO Q12H
   - Transfuse PRN for HCT < 21 or signs of ischemia
   7. Diabetes Mellitus Type 2
   Stable
   - cont RISS  / Glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-23**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to aortic endocarditis, annular abscess, complete
   heart block, severe aortic regurgitation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/13/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2201-3-6**] 11:33 ------